US04272284
Preparation of N-methylaminodihydroisoindole hydrochloride
To the crude N-(t-butyloxycarbonyl-N-methylamino)dihydroisoindole from the above preparation was added 25 ml of concentrated hydrochloric acid. The reaction mixture was allowed to stir for one hour. Evaporation of the mixture to dryness and recrystallization of the residue from ethanol-ether gave 5.6 g of the desired product as a gummy solid, mp: 79°-89°. The IR and NMR were consistent with the proposed structure.

reactant | N-(t-butyloxycarbonyl-N-methylamino)dihydroisoindole | C(C)(C)(C)OC(=O)N(C)N1CC2=CC=CC=C2C1 | C14H20N2O2
reactant | hydrochloric acid | 25 ml | Cl | ClH
product | N-methylaminodihydroisoindole hydrochloride | 5.6 g | Cl.CNN1CC2=CC=CC=C2C1 | InChI=1S/C9H12N2.ClH/c1-10-11-6-8-4-2-3-5-9(8)7-11;/h2-5,10H,6-7H2,1H3;1H
